US08304419B2
Step B: 3-{[3-(bromomethyl)-2,6-difluorophenyl]oxy}-5-chlorobenzonitrile
A solution of 3-chloro-5-[(2,6-difluoro-3-methylphenyl)oxy]benzonitrile (4.05 g, 14.48 mmol) and NBS (3.09 g, 17.38 mmol) in carbon tetrachloride (500 mL) was degassed and heated to 90° C. under a nitrogen atmosphere. After ca. 5 min, AIBN (0.119 g, 0.724 mmol) was added and the solution was heated for 6 h. The solution was cooled to 0° C. then filtered through Celite. The filtrate was concentrated and the crude material was purified on silica gel (hexanes/ethyl acetate) to give the title compound (2.9 g, 56%) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.31-7.40 (m, 2H), 7.21 (t, 1H), 7.04-7.11 (m, 2H), 4.51 (s, 2H).

reactant | 3-chloro-5-[(2,6-difluoro-3-methylphenyl)oxy]benzonitrile | 14.48 mmol, 4.05 g | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1F)C)F | C14H8ClF2NO
reactant | NBS | 17.38 mmol, 3.09 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 0.724 mmol, 0.119 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 3-{[3-(bromomethyl)-2,6-difluorophenyl]oxy}-5-chlorobenzonitrile | 2.9 g, 56% | BrCC=1C(=C(C(=CC1)F)OC=1C=C(C#N)C=C(C1)Cl)F | C14H7BrClF2NO
